US04291047
33.4 g (0.2 mol) of 3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-one were dissolved in 150 ml of methylene chloride and the solution was cooled to -5° C. 19 g (0.1 mol) of titanium tetrachloride, and then 29.5 g (0.2 mol) of chloral, were slowly added dropwise to this solution. The internal temperature was kept constant at -5° C. during the metering. Thereafter, the mixture was warmed slowly to the reflux and stirred for 3 hours. The reaction solution was poured onto ice and the white curdy precipitate which formed was filtered off. After boiling up in 250 ml of methanol and then drying, 19.9 g (32% of theory) of 1,1,1-trichloro-2-hydroxy-3-(1,2,4-triazol-1-yl)-5,5-dimethyl-hexan-4-one of melting point 220°-222° C. were obtained.

reactant | 3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-one | 0.2 mol, 33.4 g | CC(C(CN1N=CN=C1)=O)(C)C | C8H13N3O
reactant | chloral | 0.2 mol, 29.5 g | O=CC(Cl)(Cl)Cl | C2HCl3O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 0.1 mol, 19 g | [Ti](Cl)(Cl)(Cl)Cl
product | 1,1,1-trichloro-2-hydroxy-3-(1,2,4-triazol-1-yl)-5,5-dimethyl-hexan-4-one | 19.9 g, 32% | ClC(C(C(C(C(C)(C)C)=O)N1N=CN=C1)O)(Cl)Cl | C10H14Cl3N3O2
